US04762942
3-(2-Hexyl-4-tetradecylphenoxy)-2-(phenylmethoxy)-1-propanol
A solution of 11.9 g of 2-hexyl-1-[2-(phenylmethoxy)-3-(triphenylmethoxy)propoxy]-4-tetradecylbenzene in 250 ml of chloroform was cooled to 0° C. A stream of dry hydrogen chloride gas was bubbled into the solution for 1/2 hour, then the mixture was stirred for 2 hours at 0° C. Solid sodium bicarbonate was added, the mixture stirred for 3 hours, then filtered and the chloroform evaporated. The residue was dissolved in ether, washed with aqueous sodium bicarbonate, dried and the residue chromatographed on silica gel. The column was eluted with hexane:ethyl acetate, giving 5.8 g of the desired compound, mp 32°-33° C.

reactant | 2-hexyl-1-[2-(phenylmethoxy)-3-(triphenylmethoxy)propoxy]-4-tetradecylbenzene | 11.9 g | C(CCCCC)C1=C(C=CC(=C1)CCCCCCCCCCCCCC)OCC(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OCC1=CC=CC=C1 | C55H72O3
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-Hexyl-4-tetradecylphenoxy)-2-(phenylmethoxy)-1-propanol | 5.8 g | C(CCCCC)C1=C(OCC(CO)OCC2=CC=CC=C2)C=CC(=C1)CCCCCCCCCCCCCC | C36H58O3
